US08669234B2
5-Aza-spiro[2.4]heptane-5,6-dicarboxylic acid 5-tert-butyl ester (350 mg, 1.45 mmol) was mixed with HATU (551 mg, 1.45 mmol) in DMF (5 mL) and the mixture was stirred at room temperature for 30 minutes. 2-Amino-1-(4-bromo-phenyl)-ethanone bis HCl salt (416 mg, 1.45 mmol) in 2 mL DMF was added, followed by DIEA (3.5 eq., 0.88 mL) dropwise at 0° C. The reaction was stirred at 0° C. for 40 minutes. The reaction mixture was diluted in ethyl acetate and washed with saturated sodium bicarbonate solution. The organic layer was dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 20 to 100% ethyl acetate/hexane) to give 6-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-5-aza-spiro[2.4]heptane-5-carboxylic acid tert-butyl ester (424 mg, 67%). LCMS-ESI−: calc'd for C20H25BrN2O4: 437.33. Found: 460.1 (M+Na+).

reactant | 5-Aza-spiro[2.4]heptane-5,6-dicarboxylic acid 5-tert-butyl ester | 1.45 mmol, 350 mg | C(C)(C)(C)OC(=O)N1CC2(CC2)CC1C(=O)O | C12H19NO4
reactant | HATU | 1.45 mmol, 551 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-Amino-1-(4-bromo-phenyl)-ethanone bis HCl salt | 1.45 mmol, 416 mg | Cl.Cl.NCC(=O)C1=CC=C(C=C1)Br
reactant | DIEA | 0.88 mL, 3.5 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-5-aza-spiro[2.4]heptane-5-carboxylic acid tert-butyl ester | 424 mg, 67% | C(C)(C)(C)OC(=O)N1CC2(CC2)CC1C(NCC(=O)C1=CC=C(C=C1)Br)=O | C20H25BrN2O4
